US07351738B2
A mixture of tert-butyl (1S)-2-(3,5-difluorophenyl)-1-[(2S)-oxiran-2-yl]ethylcarbamate (1.0 g, 3.3 mmol) and 3-methoxybenzylamine (1.8 g, 13.3 mmol) in isopropyl alcohol (30 ml) was stirred at room temperature for 6.5 h. The reaction mixture was diluted with EtOAc (100 ml) and washed with 1 N HCl (3×30 ml), sat'd aq. NaHCO3 (1×50 ml) and brine. The organic layer was dried over Na2SO4 and concentrated in vacuo to yield an off white solid. The residue was dissolved in THF (20 ml) and chilled to 0° C. followed by the addition of Et3N (0.6 ml, 4.4 mmol) and benzylchloroformate (0.5 ml, 3.6 mmol). The reaction mixture was warmed spontaneously for 3 h. The reaction mixture was diluted with EtOAc, washed with 1N HCl, NaHCO3, and brine. The organic layer was dried over Na2SO4 and concentrated in vacuo. Flash chromatography 30% EtOAC/Heptanes yields 1.3 g (70%) of [3-tert-butoxycarbonylamino-4-(3,5-difluoro-phenyl)-2-hydroxy-butyl]-(3-methoxybenzyl)-carbamic acid benzyl ester. MS (ESI+) for C31H36F2N2O6 m/z 570.8 (M+H)+.

reactant | tert-butyl (1S)-2-(3,5-difluorophenyl)-1-[(2S)-oxiran-2-yl]ethylcarbamate | 3.3 mmol, 1.0 g | FC=1C=C(C=C(C1)F)C[C@@H]([C@@H]1OC1)NC(OC(C)(C)C)=O | C15H19F2NO3
reactant | 3-methoxybenzylamine | 13.3 mmol, 1.8 g | COC=1C=C(CN)C=CC1 | C8H11NO
reactant | Et3N | 4.4 mmol, 0.6 ml | CCN(CC)CC | C6H15N
reactant | benzylchloroformate | 3.6 mmol, 0.5 ml | C(C1=CC=CC=C1)OC(=O)Cl | C8H7ClO2
solvent | isopropyl alcohol | 30 ml | C(C)(C)O | C3H8O
solvent | EtOAc | 100 ml | CCOC(=O)C | C4H8O2
solvent | THF | 20 ml | C1CCOC1 | C4H8O
product | [3-tert-butoxycarbonylamino-4-(3,5-difluoro-phenyl)-2-hydroxy-butyl]-(3-methoxybenzyl)-carbamic acid benzyl ester | 1.3 g, 70% | C(C1=CC=CC=C1)OC(N(CC1=CC(=CC=C1)OC)CC(C(CC1=CC(=CC(=C1)F)F)NC(=O)OC(C)(C)C)O)=O | C31H36F2N2O6
